US07192982B2
1N aqueous lithium hydroxide solution (1.37 mL) was added to a solution of 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid methyl ester (0.075 g, 0.17 mmol) in THF (2 mL) at room temperature. The reaction mixture was stirred overnight, diluted with water (10 mL), and extracted with diethyl ether (3×20 mL). The aqueous layer was acidified with 1N HCl to pH 1 and extracted with ethyl acetate (3×25 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated to give 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid as a white solid (60 mg, 83%). 1H-NMR (200 MHz, CDCl3): 7.56–7.29 (m, 7H), 7.18–7.09 (m, 1H), 6.98 (d, 2H, J=8.6), 6.66–6.60 (m, 2H), 4.17 (dt, 4H, J=8.9, 5.9), 4.03 (dd, 1H, J=6.7, 4.8), 3.40 (s, 3H), 3.23–3.14 (m, 1H), 2.97 (dd, 1H, J=14.0, 6.7), 2.26 (q, 2H, J=5.9)ppm.

reactant | lithium hydroxide | 1N, 1.37 mL | [OH-].[Li+]
reactant | 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid methyl ester | 0.17 mmol, 0.075 g | COC(C(CC1=C(C=C(C=C1)OCCCOC1=CC=C(C=C1)C1=CC=CC=C1)F)OC)=O | C26H27FO5
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-{4-[3-(biphenyl-4-yloxy)-propoxy]-2-fluoro-phenyl}-2-methoxy-propionic acid | 60 mg, 83% | C1(=CC=C(C=C1)OCCCOC1=CC(=C(C=C1)CC(C(=O)O)OC)F)C1=CC=CC=C1 | C25H25FO5
